US05399737
Synthesis of bis(trimethylsiloxy)methylsilylethyl benzyl dimethyl benzyl ammonium chloride [IG]
A mixture of 3.74 bis(trimethylsiloxy) methylsilylethyl benzyl chloride and 1.38 g of N,N-dimethylbenzylamine in isopropanol was treated at 80° C. for 4 hours and then evaporated in vacuo. The resulting glassy material was treated 5 times with n-hexane and then crystallized from ethyl acetate-n-hexane. A yield of 0.8 g (16%) of Compound [IG] was obtained. The structure of the compound was confirmed by elemental analysis, infrared spectroscopy, mass spectroscopy and nmr. The nmr data showed: 7.7-7.0 ppm (b,4 aromatic), 5.1 ppm (b,4,N--CH2), 3.1 ppm (s,6,N--CH3) and 0.0 ppm (s, 21 ,Si--CH3).

reactant | bis(trimethylsiloxy) methylsilylethyl benzyl chloride | C[Si](OC(O[Si](C)(C)C)[SiH2]CCC(C1=CC=CC=C1)Cl)(C)C | C16H31ClO2Si3
reactant | N,N-dimethylbenzylamine | 1.38 g | CN(C)CC1=CC=CC=C1 | C9H13N
solvent | isopropanol | C(C)(C)O | C3H8O
product | bis(trimethylsiloxy)methylsilylethyl benzyl dimethyl benzyl ammonium chloride | yield of 0.8 g, 16% | [Cl-].C[Si](OC(O[Si](C)(C)C)[SiH2]CCC(C1=CC=CC=C1)[N+](C)(C)CC1=CC=CC=C1)(C)C | InChI=1S/C25H44NO2Si3.ClH/c1-26(2,21-22-15-11-9-12-16-22)24(23-17-13-10-14-18-23)19-20-29-25(27-30(3,4)5)28-31(6,7)8;/h9-18,24-25H,19-21,29H2,1-8H3;1H/q+1;/p-1
